US05532235
(E) 4,5,6,7-Tetrahydro-4-[[[(4-methylphenyl)sulfonyl]oxy]imino]-3-benzofurancarboxylic acid
To a partial solution of 2.8 g of (E)-4,5,6,7-tetrahydro-4-(hydroxyimino)-3-benzofurancarboxylic acid in 7 ml of pyridine is added portionwise at 0° C., 3.01 g of p-toluene sulfonyl chloride under argon. The mixture is stirred for 1 hour then diluted with 40 ml of cold 1N HCl, filtered, washed with water and dried with Na2SO4. The filtrate is concentrated in vacuo to give 4.78 g of the desired product as an off-white solid, m.p. 155°-165° C.

reactant | (E)-4,5,6,7-tetrahydro-4-(hydroxyimino)-3-benzofurancarboxylic acid | 2.8 g | O\N=C\1/CCCC2=C1C(=CO2)C(=O)O | C9H9NO4
reactant | p-toluene sulfonyl chloride | 3.01 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 7 ml | N1=CC=CC=C1 | C5H5N
solvent | HCl | 1N | Cl | ClH
product | 4,5,6,7-Tetrahydro-4-[[[(4-methylphenyl)sulfonyl]oxy]imino]-3-benzofurancarboxylic acid | 4.78 g | CC1=CC=C(C=C1)S(=O)(=O)ON=C1CCCC2=C1C(=CO2)C(=O)O | C16H15NO6S
